US08445495B2
To a 0° C. solution of triphosgene (150 mg, 0.50 mmol, 0.35 equiv) in THF (15 mL) was slowly added via cannula a solution of (R)-benzyl 4-(3-amino-2-fluorobenzyl)-2-methylpiperazine-1-carboxylate (500 mg, 1.4 mmol, 1.0 equiv) and DIPEA (485 μL, 18.5 mmol, 2.0 equiv) in THF (15 mL) over approximately 15 minutes. The solution was stirred for an additional 20 min at 0° C., and 4-amino-2-methylpyridine was then added. After stirring at room temperature overnight, the reaction was diluted with EtOAc, washed with aq. satd. NaHCO3 and brine, dried over sodium sulfate, filtered and concentrated in vacuo. Purification by reverse phase preparative HPLC provided (R)-benzyl 4-(2-fluoro-3-(3-(2-methylpyridin-4-yl)ureido)benzyl)-2-methylpiperazine-1-carboxylate (180 mg, 27%). LCMS m/z (APCI)=492.3 (M+H).

reactant | triphosgene | 0.50 mmol, 150 mg, 0.35 equiv | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (R)-benzyl 4-(3-amino-2-fluorobenzyl)-2-methylpiperazine-1-carboxylate | 1.4 mmol, 500 mg, 1.0 equiv | NC=1C(=C(CN2C[C@H](N(CC2)C(=O)OCC2=CC=CC=C2)C)C=CC1)F | C20H24FN3O2
reactant | DIPEA | 18.5 mmol, 485 μL, 2.0 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-amino-2-methylpyridine | NC1=CC(=NC=C1)C | C6H8N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-benzyl 4-(2-fluoro-3-(3-(2-methylpyridin-4-yl)ureido)benzyl)-2-methylpiperazine-1-carboxylate | 180 mg, 27% | FC1=C(CN2C[C@H](N(CC2)C(=O)OCC2=CC=CC=C2)C)C=CC=C1NC(=O)NC1=CC(=NC=C1)C | C27H30FN5O3
